US06268387B1
3-Ethanesulfonylamino-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 121 using ethanesulfonyl chloride (1.5 mL, 15.8 mmol), 3-amino-4-methoxy-N-phenyl-benzamide (2.43 g. 10 mmol) and pyridine (25 mL) to afford the product (3.023 g); m.p. 175-177° C. after trituration in hexanes/ethyl acetate (1:1).

reactant | ethanesulfonyl chloride | 15.8 mmol, 1.5 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 10 mmol, 2.43 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 3-Ethanesulfonylamino-4-methoxy-N-phenyl-benzamide | 3.023 g | C(C)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C16H18N2O4S
